US06232318B1
To a suspension of 5-bromouracil (5.0 g, 26 mmol) and potassium carbonate (7.2 g, 52 mmol) in N,N-dimethylformamide (25 mL) was added benzyl bromide (3.1 mL, 26 mmol) and the reaction mixture stirred 72 h. The reaction was treated with water (50 mL) and then extracted into ethyl acetate (3×75 mL). The aqueous layer was further extracted with dichloromethane (3×100 mL), the dichloromethane layers were combined, washed with water (2×50 mL), brine (1×50 mL), dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting mixture of products was purified by pressurized silica gel chromatography (25% ethyl acetate in hexane) to provide 1-benzyl-5-bromo-1H-pyrimidine-2,4-dione.

reactant | 5-bromouracil | 26 mmol, 5.0 g | BrC=1C(NC(NC1)=O)=O | C4H3BrN2O2
reactant | potassium carbonate | 52 mmol, 7.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 26 mmol, 3.1 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 50 mL | O | H2O
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 1-benzyl-5-bromo-1H-pyrimidine-2,4-dione | C(C1=CC=CC=C1)N1C(NC(C(=C1)Br)=O)=O | C11H9BrN2O2
